US04808612
A. 1-[4-(trifluoromethyl)phenyl]-4-piperidinone
A mixture of 25 g (0.1523 mol) of p-fluorobenzotrifluoride, 31 g (0.224 mol) of K2CO3, 65 g (0.4539 mol) of 1,4-dioxa-8-azaspiro[4.5]decane, and 150 ml of acetonitrile is stirred at reflux for 3 days. The reaction mixture is cooled, diluted with water, and extracted with methylene chloride. The combined extracts are washed with water, dried over Na2SO4 and concentrated in vacuo. The residue, 600 ml of 10% sulfuric acid solution and 300 ml of tetrahydrofuran is stirred at ambient temperature for 7 days, diluted with water and extracted with methylene chloride. The extracts are washed with brine, dried over Na2SO4, and concentrated in vacuo. Trituration with ether gives 0.9 g of title compound: IR (KBr) 1715, 1610, 1520 and 1330 cm-1 ; NMR (CDCl3) δ7.55 (d, 2H), 6.95 (d, 2H)m 3.73 (t, 4H), and 2.59 (t, 4H).

reactant | p-fluorobenzotrifluoride | 0.1523 mol, 25 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | K2CO3 | 0.224 mol, 31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 0.4539 mol, 65 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[4-(trifluoromethyl)phenyl]-4-piperidinone | 0.9 g | FC(C1=CC=C(C=C1)N1CCC(CC1)=O)(F)F | C12H12F3NO
